US05686424
Using the procedure described in Example 5, treatment of a solution of L-proline-L-isoleucine benzylamide (57 mg, 0.18 mmol), with triethylamine (130 uL, 0.93 mmol, 5.0 eq), and 2,-4'-dibromoacetophenone (63 mg, 0.22 mmol, 1.2 eq) in THF (7 mL), provided a crude product. A portion of the product was purified by preparative TLC to provide 62 mg (67%) of L-isoleucine, N-[1-(2-(4-bromophenyl)-2-oxoethyl)-L-prolyl] benzylamide.

reactant | L-proline L-isoleucine benzylamide | 0.18 mmol, 57 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | triethylamine | 0.93 mmol, 130 uL, 5.0 eq | C(C)N(CC)CC | C6H15N
reactant | 2,-4'-dibromoacetophenone | 0.22 mmol, 63 mg, 1.2 eq | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | L-isoleucine, N-[1-(2-(4-bromophenyl)-2-oxoethyl)-L-prolyl] benzylamide | 62 mg, 67% | BrC1=CC=C(C=C1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C26H32BrN3O3
